US08735390B2
Toluenesulfonylmethyl isocyanide (TosMIc) (12.31 g, 1 wt, 1 eq) is dissolved in DCM (61.6 ml, 5 vols) at 0° C. under N2. In a seperate vessel, ethyl glyoxalate (50 wt % solution in toluene, 20.6 g, 20.0 ml, 1.67 wt) is diluted with DCM (61.6 ml, 5 vols) under N2 and DBU (12.48 g, 12.35 ml, 1.3 eq, 1.01 wt) is added resulting in a purple solution. The second solution is added to the TosMIc solution over 1 hr, maintaining temperature at 0° C., then checked by HPLC for completion after a further 20 mins. The reaction is quenched by slow addition of 2M HCl (10 vols, 123 ml) and the DCM layer separated. The aqueous layer is re-extracted with DCM (5 vols, 61.6 ml), and the combined organics dried over Na2SO4, then evaporated on Buchi, 25° C., 100 mbar to remove DCM and toluene. Distilled at 12 mbar, jacket temperature 105° C., vapour temperature 60-80° C. to afford ethyl oxazole-5-carboxylate as a colourless oil.

reactant | Toluenesulfonylmethyl isocyanide | 12.31 g, 1 eq | C=1(C(=CC=CC1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | ethyl glyoxalate | 20.0 ml, 20.6 g | C(C=O)(=O)OCC | C4H6O3
reactant | DBU | 12.35 ml, 12.48 g, 1.3 eq | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DCM | 61.6 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 61.6 ml | C(Cl)Cl | CH2Cl2
product | ethyl oxazole-5-carboxylate | O1C=NC=C1C(=O)OCC | C6H7NO3
